US03979444
A mixture of 36.75 g. (0.25 mole) of the known compound (p-methoxyphenyl)acetonitrile and 116 ml. of methyl methacrylate in 120 ml. of t-butyl alcohol is heated to reflux. The heat is removed and 38 ml. of 40% methanolic Triton B in 56 ml. of t-butyl alcohol quickly added. After about 4 hours of heating at reflux the mixture is allowed to cool and taken up in water and benzene. The organic layer is washed successively with 2.5 N hydrochloric acid, water and brine and then evaporated to dryness. The residue is distilled under vacuum, first at 40 mm. of mercury to remove excess methyl acrylate and then at 0.6 to 0.75 mm. to give 55.9 g. (70.2% yield) of dimethyl-4-cyano-4-(4-methoxyphenyl)pimelate, having a boiling point of 205° to 210°C. The NMR spectrum of the compound confirms its expected structure.

reactant | (p-methoxyphenyl)acetonitrile | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
solvent | t-butyl alcohol | C(C)(C)(C)O | C4H10O
product | dimethyl-4-cyano-4-(4-methoxyphenyl)pimelate | 70.2% yield | COC(CCC(CCC(=O)OC)(C1=CC=C(C=C1)OC)C#N)=O | C17H21NO5
